US07550465B2
Step 1: 6-methoxy-2-(4-methyl-2-propyl-imidazol-1-yl)-3-nitro-pyridine
To a suspension prepared of 20.0 g KOH (solid), 25.8 g 4-methyl-2-propyl imidazole and 130 ml dimethyl formamide were added 38.0 g 2-chloro-6-methoxy-3-nitro pyridine in small amounts at a reaction temperature of 5° C. The reaction mixture was stirred for 75 minutes at room temperature. Then the reaction mixture was poured in 600 ml water. The mixture was further stirred for 1 hr. The desired product precipitated during this time. The resulting solid was collected by filtration, washed with 100 ml water for 3 times and dried in a dry box with vacuum (40° C.).

reactant | KOH | 20.0 g | [OH-].[K+]
reactant | 4-methyl-2-propyl imidazole | 25.8 g | CC=1N=C(NC1)CCC | C7H12N2
reactant | dimethyl formamide | 130 ml | CN(C=O)C | C3H7NO
reactant | 2-chloro-6-methoxy-3-nitro pyridine | 38.0 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
solvent | water | 600 ml | O | H2O
product | 6-methoxy-2-(4-methyl-2-propyl-imidazol-1-yl)-3-nitro-pyridine | COC1=CC=C(C(=N1)N1C(=NC(=C1)C)CCC)[N+](=O)[O-] | C13H16N4O3
